// Generated for: spectre
// Generated on: Nov  2 14:57:14 2015
// Design library name: cse562
// Design cell name: square
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06N.m"
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06P.m"

// Library name: cse562
// Cell name: square
// View name: schematic
N7 (vdd! net3 0 0) ami06N w=900n l=600n as=1.35e-12 ad=1.35e-12 ps=4.8u \
        pd=4.8u m=1 region=sat
N6 (vdd! net1 net3 0) ami06N w=900n l=600n as=1.35e-12 ad=1.35e-12 ps=4.8u \
        pd=4.8u m=1 region=sat
N5 (net2 net2 0 0) ami06N w=900n l=600n as=1.35e-12 ad=1.35e-12 ps=4.8u \
        pd=4.8u m=1 region=sat
N4 (net1 net1 net2 0) ami06N w=900n l=600n as=1.35e-12 ad=1.35e-12 ps=4.8u \
        pd=4.8u m=1 region=sat
I21 (net3 0) isource type=dc dc=2n m=1
I17 (vdd! net1) isource type=dc dc=10n m=1
V2 (vdd! 0) vsource type=dc dc=3
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc dev=I17 param=dc start=0 stop=5n oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
