// Generated for: spectre
// Generated on: May  2 11:50:16 2016
// Design library name: 563_final
// Design cell name: test_543
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06N.m"
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06P.m"

// Library name: 563_final
// Cell name: test_543
// View name: schematic
M0 (Out In 0 gnd!) ami06N w=1.35u l=600n as=2.025e-12 ad=2.025e-12 ps=5.7u \
        pd=5.7u m=1 region=sat
M1 (Out In vdd! vdd!) ami06P w=1.35u l=600n as=2.025e-12 ad=2.025e-12 \
        ps=5.7u pd=5.7u m=1 region=sat
V0 (In 0) vsource type=pulse val0=0 val1=5 period=100n
V1 (vdd! 0) vsource type=dc dc=5
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=100n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
